### PR TITLE
[Merged by Bors] - feat(Analysis/Asymptotics): Adds Asymptotics.IsEquivalent.Log

### PR DESCRIPTION
**Pull request by ajirving**
Shows that if f ~ g then log f ~ log g

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/SpecificAsymptotics.lean [hunk 1]
```diff
@@ -101,6 +101,22 @@ theorem Asymptotics.IsEquivalent.rpow {α : Type*} {u v : α → ℝ} {l : Filte
...
+  rw [isEquivalent_iff_tendsto_one hg] at hfg
+  have := hfg.log (by norm_num)
+  simp only [Pi.div_apply, Real.log_one] at this
+  apply IsLittleO.isEquivalent
+  have := this.congr' (f₂ := (fun n ↦ Real.log (f n) - Real.log (g n))) ?_
+  swap
+  · filter_upwards [hf, hg] with n hf hg using Real.log_div hf hg
+  apply IsLittleO.trans <| (isLittleO_one_iff ℝ).mpr this
+  rw [isLittleO_one_left_iff]
+  exact tendsto_abs_atTop_atTop.comp <| Real.tendsto_log_atTop|>.comp g_tendsto
```
Comment (j-loreaux) [inline Mathlib/Analysis/Asymptotics/SpecificAsymptotics.lean]: slightly cleaner
```suggestion
  have hf := hfg.symm.tendsto_atTop g_tendsto |>.eventually_ne_atTop 0
  rw [isEquivalent_iff_tendsto_one hg] at hfg
  have := hfg.log (by norm_num) |>.congr' <| by
    filter_upwards [hf, hg] with n hf hg using Real.log_div hf hg
  exact IsLittleO.isEquivalent <| calc
    (fun n ↦ Real.log (f n) - Real.log (g n)) =o[l] fun _ ↦ (1 : ℝ) := by simpa
    _ =o[l] fun n ↦ Real.log (g n) := isLittleO_one_left_iff ℝ |>.mpr <|
      tendsto_norm_atTop_atTop.comp <| Real.tendsto_log_atTop.comp g_tendsto
```

**Review by j-loreaux — APPROVED** [review]
bors d+
